US07319104B2
3-(4-bromophenyl)-5-cyclopropylisoxazole
To a solution of 1-(4-bromophenyl)-3-cyclopropyl-1,3-propanedione (2.60 g, 9.73 mmol) in anhydrous MeOH (80 ml) was added hydroxylamine hydrochloride (2.71 g, 39.00 mmol). The mixture was heated to reflux for 14 h. Upon cooling, the solution was poured into water, and extracted with CH2Cl2 (3×200 ml). The combined organic phases were dried with MgSO4 and concentrated in vacuo. The regioisomers were separated by flash chromatography (CH2Cl2/hexanes, 10:90 to 40:60) to yield the title compound as a white solid (1.04 g, 40%).

reactant | 1-(4-bromophenyl)-3-cyclopropyl-1,3-propanedione | 9.73 mmol, 2.60 g | BrC1=CC=C(C=C1)C(CC(=O)C1CC1)=O | C12H11BrO2
reactant | hydroxylamine hydrochloride | 39.00 mmol, 2.71 g | Cl.NO
reactant | water | O | H2O
solvent | MeOH | 80 ml | CO | CH4O
product | 3-(4-bromophenyl)-5-cyclopropylisoxazole | 1.04 g, 40% | BrC1=CC=C(C=C1)C1=NOC(=C1)C1CC1 | C12H10BrNO
